US03933927
In the reaction vessel of Example 1 place 190 parts of phenol and 2.4 parts of granular aluminum. Flush with nitrogen and heat to 180°C. to form aluminum phenoxide. Cool and vent. Add 206 parts of 2,6-di-sec-butylphenol and again seal the vessel. Heat to 275°C. and stir at this temperature for 2 hours. Then pressurized with butene-1 to 1000 psig and stir the reaction mixture under these conditions for an additional 4 hours. Cool and discharge the reaction mixture into a dilute aqueous hydrochloric acid solution to hydrolyze the catalyst. Wash with water until neutral and then distill the reaction mixture to recover o-sec-butylphenol. Residual 2,6-di-sec-butylphenol remaining is recycled to a subsequent reaction carried out in the same manner as the foregoing. The net result is that the 2,6-di-sec-butylphenol formed in each reaction is consumed in a subsequent reaction as the donor phenol forming o-sec-butylphenol, thus, avoiding accumulation of 2,6-di-sec-butylphenol and giving higher yields of o-sec-butylphenol.

reactant | 2,6-di-sec-butylphenol | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)O | C14H22O
reactant | butene-1 | CCC=C | C4H8
reactant | hydrochloric acid | Cl | ClH
product | o-sec-butylphenol | C(C)(CC)C1=C(C=CC=C1)O | C10H14O
